US07300944B2
3-(3-Hydroxy-cyclobutyl)-4-phenyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one
To 3-(3-oxo-cyclobutyl)-4-phenyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one (0.91 g, 3.23 mmol) in THF (20 mL) at 0° C. (ice water bath) was added slowly down the side of the flask a solution of LAH (6.4 mL, 1 M hexanes). After one hr, the reaction was quenched with H2O, 15% NaOH, H2O (0.24 □L:0.24 □L:0.71 □L) and then diluted with EtOAc. To this slurry was added 5 g of silica gel and this mixture was concentrated and dried under reduced pressure. Purification of this material was accomplished by MPLC using 40 g ISCO column (dry pack condition), eluting with a gradient of 5%, 10%, 20% MeOH/CH2Cl2. The product-containing fractions were collected and concentrated to give the title compound (0.50 g, 55%) as a colorless solid. Rf=0.42 (20% MeOH/CH2Cl2). 400 MHz 1H NMR (DMSO-d6) d 11.90 (s, 1H), 10.29 (s, 1H), 7.28-7.23 (m, 2H), 7.20-7.15 (m, 2H), 7.10-7.06 (m, 1H), 5.04 (d, J=6.2 Hz, 1H), 4.16 (dd, J=7.0,4.1 Hz, 1H), 3.86-3.76 (m, 1H), 2.84 (dd, J=15.7, 7.5 Hz, 1H), 2.52 (dddd, J=10.4, 10.4, 7.5, 7.5 Hz, 1H), 2.50-2.48 (dd, J=masked by DMSO, 4.1 Hz, 1H), 2.29-2.12 (m, 2H), 1.89-1.72 (m, 2H). 100 MHz 13C NMR (DMSO-d6) d 170.0, 149.6, 145.0, 142.2, 129.2, 127.5, 127.2, 101.7, 62.4, 41.4, 34.4, 21.2. LRMS m/z (APCI+) 284 (M+1).

reactant | 3-(3-oxo-cyclobutyl)-4-phenyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one | 3.23 mmol, 0.91 g | O=C1CC(C1)C=1NN=C2NC(CC(C21)C2=CC=CC=C2)=O | C16H15N3O2
reactant | LAH | 1 M, 6.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-Hydroxy-cyclobutyl)-4-phenyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one | 0.50 g, 55% | OC1CC(C1)C=1NN=C2NC(CC(C21)C2=CC=CC=C2)=O | C16H17N3O2
